US07008950B1
2,4,6,7-Tetramethyl-3-phenylbenzofuran-5-yl 4-methoxybenzoate
Using 2,4,6,7-tetramethyl-3-phenylbenzofuran-5-ol and 4-methoxybenzoyl chloride, the title compound was obtained in the same manner as in Example 26.

reactant | 2,4,6,7-tetramethyl-3-phenylbenzofuran-5-ol | CC=1OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)O)C | C18H18O2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 2,4,6,7-Tetramethyl-3-phenylbenzofuran-5-yl 4-methoxybenzoate | Yield 64% | COC1=CC=C(C(=O)OC=2C(=C(C3=C(C(=C(O3)C)C3=CC=CC=C3)C2C)C)C)C=C1 | C26H24O4
